US04727081
N-4-Chlorophenyl-2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide
The compound is prepared by a method analogous to that of Example 9 from N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carbothioamide and 4-chlorophenyl isocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carbothioamide | N1(CCCCC1)CC=1C=C(OCCCNC(=S)NN)C=CC1 | C16H26N4OS
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | N-4-Chlorophenyl-2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide | ClC1=CC=C(C=C1)NC(=O)NNC(=S)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H30ClN5O2S
